US08604019B2
Step 2. Preparation of N-[Pyrrolidin-3-yl]-6-methyl-2-(1-oxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)thieno[3,2-d]pyrimidin-4-amine
To a suspension of benzyl-3-{[2-(1-oxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylthienopyrimidin-4-yl]amino}-pyrrolidine-1-carboxylate (300 mg, 0.55 mmol) in methanol (5 mL) was added an aqueous solution of potassium hydroxide (40%, 5 mL). The suspension was heated under reflux for 30 minutes. The organic solvent was removed by concentration in vacuo. The residue was purified by preparative HPLC to afford the pure product as a white solid. MS obsd. (ESI+) [(M+H)+] 414, 1H NMR (METHANOL-d4) δ ppm 7.73 (d, J=7.6 Hz, 1H), 7.68 (d, J=7.1 Hz, 1H), 7.37-7.52 (m, 2H), 6.77-6.85 (m, 1H), 5.19 (d, J=15.4 Hz, 1H), 4.79-4.97 (m, 3H), 4.71 (br. s., 1H), 3.44 (d, J=3.0 Hz, 2H), 3.25-3.38 (m, 2H), 3.21 (d, J=5.8 Hz, 1H), 3.02-3.13 (m, 1H), 2.54 (s, 3H), 2.34 (td, J=12.9, 6.9 Hz, 1H), 1.95-2.07 (m, 1H).

reactant | benzyl-3-{[2-(1-oxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylthienopyrimidin-4-yl]amino}-pyrrolidine-1-carboxylate | 0.55 mmol, 300 mg | C(C1=CC=CC=C1)OC(=O)N1CC(CC1)NC1=NC(=NC2=C1SC(=C2)C)N2CCS(C1=C(C2)C=CC=C1)=O | C28H29N5O3S2
reactant | potassium hydroxide | 5 mL | [OH-].[K+]
solvent | methanol | 5 mL | CO | CH4O
product | N-[Pyrrolidin-3-yl]-6-methyl-2-(1-oxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)thieno[3,2-d]pyrimidin-4-amine | N1CC(CC1)NC=1C2=C(N=C(N1)N1CCS(C3=C(C1)C=CC=C3)=O)C=C(S2)C | C20H23N5OS2
